US08648066B2
6-(Phenylamino)pyrimidin-4-ol (253 mg, 1.35 mmol) was dissolved in neat phosphorous oxychloride (5 mL) and stirred for 3 h at 95° C. then cooled to room temperature and concentrated. The residue was poured into an ice water slurry and extracted with dichloromethane. The extract was washed saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and the solvent evaporated to afford 6-chloro-N-phenylpyrimidine-4-amine (220 mg) which was used without further purification.

reactant | 6-(Phenylamino)pyrimidin-4-ol | 1.35 mmol, 253 mg | C1(=CC=CC=C1)NC1=CC(=NC=N1)O | C10H9N3O
reactant | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-N-phenylpyrimidine-4-amine | 220 mg | ClC1=CC(=NC=N1)NC1=CC=CC=C1 | C10H8ClN3
